Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
asparatame / vancomycin / Zosyn / gemcitabine / green peppers
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
This is a ___ year old male with PMH significant for pancreatic 
adenocarcinoma, s/p Whipple as well as metal stenting to the 
biliary tract, who presents to ___ with a 2 day history of 
fever up to ___. He reports that he has been more fatigued in 
the last ___ months and has had an increase of his markers 
suggesting recurrence of his malignancy, undergoing outpatient 
workup. 

In the last ___ weeks he has had 10 pounds of weight loss as 
well as decreased appetite, and low grade temps (___). Per 
the patient and his wife, he began having high fevers, as high 
as ___ today, while at home. He denies dysuria, n/v/d, cp, sob, 
cough, rash, or any other complaints. Has had recent travel to 
___ about 1 month ago. No sick contacts, but is exposed 
to his ___ year old grandson who has been in good health 
recently. 

He has a history of recurrent C diff and has been taken off PO 
vancomycin recently, and remains only on Bactrim for 
prophylaxis. No diarrhea, no nausea/vomiting. Does report 
significant weakness in the last few weeks along with decreased 
energy, and states that he fell yesterday while trying to lift a 
heavy object (did not sustain any injury). Rest ROS negative 
unless stated above. 

 
Past Medical History:
- Pancreatic adenocarcinoma, s/p ___ in ___, with 
recurrence in ___ s/p cyberknife
- Pylorus preserving pancreaticoduodenectomy with superior  
mesenteric vein venorrhaphy ___ followed by revision with 
___ duodenojejunostomy in ___, also with 2 CBD stents  
- Cholangitis
- Multiple episodes of bacteremia of undetermined origin (E. 
coli, enterococcus), possibly related to abscesses/bilomas 
requiring PTBD (last drained ___ 
- recurrent C. diff on suppressive therapy 
- CAD s/p MI ___ s/p PCI
- HTN
- Hyperlipidemia
- OSA on CPAP
- SMV Thrombus, complicated by GI bleed (no clear source of 
bleed found, and now off a/c) 
 
Social History:
___
Family History:
Mom - heart disease. Father, sister, and paternal uncle with MS. 

 
___ Exam:
Admission physical exam: 
T 98.6, BP 120/64, HR 78, RR 18, O2 98% RA
Gen - no distress, sitting up in bed, appears fatigued but well
HEENT - nc/at, eomi, perrla, op clear/no exudates, mmm
Neck - supple, no LAD
___ - RRR, S1/2, no m/r/g
Lungs - CTA b/l, no w/r/r, +left chest port c/d/I
Abd - soft, NT, ND, +BS, +left lower rib protruding anteriorly 
without tenderness/ecchymosis, negative ___ sign, no 
rebound, no guarding, no rigidity
Ext - no c/c/e
Skin - warm, dry, no rashes
Psych - calm, appropriate mood and affect 

-----------

Discharge physical exam: 

T97.7, BP 111/68, HR 57, RR 18, O2 99% RA

PO 111 / 68 57 18 99   
Gen - no distress, lying in bed and well appearing
HEENT - nc/at, mmm, op clear
Neck - supple, no lad
___ - RRR, s1/2, no m/r/g
Lungs - cta b/l, no w/r/r
Abd - soft, NT, ND, +BS
Ext - no c/c/e
Skin - warm, dry, no rashes
Psych - calm, appropriate mood and affect 
 
Pertinent Results:
___ 06:16PM   ___
___ 06:00PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 06:00PM   ALT(SGPT)-34 AST(SGOT)-38 ALK ___ TOT 
___
___ 06:00PM   ___ 
___ PLT ___

CXR ___
FINDINGS:  
  
Left chest wall port is seen with catheter tip in the right 
atrium. Lungs are 
well inflated and clear without consolidation, effusion, or 
edema.  Nodules 
projecting over the lung bases on both sides are most compatible 
with nipple 
shadows.  Cardiomediastinal silhouette is within normal limits.  
Old healed 
left posterolateral rib fractures are noted. 
  
IMPRESSION:  
  
No acute cardiopulmonary process. 

----
Labs & Imaging during hospitalization and on discharge:
 

___ 06:30AM BLOOD ___ 
___ Plt ___
___ 06:30AM BLOOD ___ 
___
___ 06:30AM BLOOD ___

BCX ___ E. coli
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
BCX ___ NGTD
BCX ___hest ___
IMPRESSION: 
  
  
-No acute intra thoracic abnormalities. 
-Stable ___ and micro nodules measuring 
less than 6 mm.  
Nodules have predominantly centrilobular distribution and are 
likely 
inflammatory, less likely infectious given stability.  No new 
nodules. 
-No focal consolidation. 

CT A/P ___
IMPRESSION: 
  
  
1. Soft tissue mass adjacent to SMA, SMV, portal confluence, 
which measures 
slightly smaller.  Attenuated and probably occluded confluence 
of the portal 
vein, SMV, similar to prior.  Soft tissue fullness about bowel 
side margin of 
the stents is similar. 
2. Persistent intrahepatic biliary dilatation, similar to prior 
with interval 
increase in the degree of pneumobilia compared to ___, 
consistent 
with patent biliary stents. 

 
Brief Hospital Course:
A/P

___ with history of pancreatic adenocarcinoma s/p Whipple, 
cholangitis, CBD stenting, bacteremia, DM, HLD, Htn presents to 
___ with 2 day history of fever as well as ___ week history of 
weakness, weight loss and fatigue found to have e. coli 
bacteremia now stable on cefepime. ID was consulted and 
recommended transition to PO cipro for total of 14 days of 
therapy from last negative blood culture, patient with 12 days 
remaining of treatment. No further fevers, and abdominal pain is 
chronic/stable. 

#Fever: 
Blood cultures drawn on ___ returned with e coli bacteremia. 
Infectious disease was consulted and initially he was on 
cefepime and flagyl. A CT abdomen was obtained to determine 
where the bacteremia seeded from. His CT was unchanged from 
prior with no signs of obstruction in the right up quadrant and 
patent stents. His UA was negative and kidneys were normal. His 
bowel was unremarkable. Spoke with ERCP to determine if his 
stents needed to be exchanged but given they are widely patent 
felt that they did not. He will need to complete 2 weeks of 
antibiotics and was discharge on cipro 500mg po q12hrs x 12 
days. He will need to be placed back on suppressive therapy 
decided on by ID; his Bactrim was held at the time of discharge. 
The ___ clinic plans to call him to schedule his follow up 
appointment within the next 2 weeks. 

#Anion gap metabolic acidosis (AG 21)
#Lactic acidosis (3.5)
Improved with IVF and returned to normal 

#Fatigue, weakness
#Fall
-fall likely in the setting of fatigue and weakness
-has also had dec PO intake
-improving with rest, continued encouragement of po nutrition as 
outpatient
-has close oncologic follow up

#Hyponatremia -Improved with IVF  

#History of pancreatic ca
-c/w home regimen: creon, hyoscyamine (new for patient), Bactrim 
for ppx is on hold as patient is being treated with cipro, 
ursodiol

#Anemia - on IV iron as outpatient, no longer on PO ferrous 
sulfate ___ absorption, monitor. Hg 9.5 and stable, did not 
require transfusion while in the hospital. To resume IV iron 
infusions as outpatient. 

#Htn - c/w furosemide, metoprolol
#DM - metformin held while in the hospital (ISS was used), 
transition back to metformin upon discharge. 
#HLD - held crestor ___ monitor liver function while in the 
hospital. Okay to resume upon discharge. 
#Hx GI bleed - c/w protonix. Now off aspirin in spite of hx CAD 
w/ stenting given bleed.
#Hx SMV thrombus - as above, off anticoagulation
#CAD - off aspirin. Crestor as above. C/w metoprolol, Lasix. 
#Code status - full
#Dispo - d/c home with 12 days of PO cipro. Has oncology 
appointment this ___, will have ID appointment within 
2 weeks. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 
2. Zolpidem Tartrate 10 mg PO QHS:PRN sleep 
3. Creon 12 6 CAP PO TID W/MEALS 
4. Creon 12 1 CAP PO WITH SNACKS 
5. Furosemide 40 mg PO DAILY 
6. MetFORMIN (Glucophage) 1000 mg PO BID 
7. Metoprolol Tartrate 50 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Rosuvastatin Calcium 20 mg PO QPM 
11. Ursodiol 300 mg PO BID 
12. Vitamin D 1000 UNIT PO DAILY 
13. Hyoscyamine 0.375 mg PO BID 
14. Iron Dextran Dose is Unknown  IV Frequency is Unknown 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 12 Days 
to start tonight ___ at 9pm 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth q12hrs Disp 
#*24 Tablet Refills:*0 
2.  Creon 12 6 CAP PO TID W/MEALS  
3.  Creon 12 1 CAP PO WITH SNACKS  
4.  Furosemide 40 mg PO DAILY  
5.  Hyoscyamine 0.375 mg PO BID  
6.  Iron Dextran As prior mg IV AS PRIOR  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Metoprolol Tartrate 50 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Pantoprazole 40 mg PO Q24H  
11.  Rosuvastatin Calcium 20 mg PO QPM  
12.  Ursodiol 300 mg PO BID  
13.  Vitamin D 1000 UNIT PO DAILY  
14.  Zolpidem Tartrate 10 mg PO QHS:PRN sleep  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GNR Bacteremia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital after you were found to have 
fevers at home. Blood cultures were sent and you were found to 
have bacteria in your blood stream. Infectious disease 
specialists were consulted and you were started on IV 
antibiotics. With this you improved and have been switched to 
Cipro (pill form) for 12 additional days. A CT scan was obtained 
to determine how the bacteria got in you blood stream. This CT 
scan looked similar to your CT scan in ___. ID recommended 
Cipro 500mg orally, twice a day, for 12 additional days. 

A we discussed you should have close follow up with your 
oncologist, your appointment is scheduled for this ___.  

 
Followup Instructions:
___